US06140330
To a solution of 2-[2-isopropyl-4-(3-carboxyacryloyl)phenoxymethylcarbonylamino]benzothiazole (0.97 g) in dimethylformamide (10 ml) are added dropwise 4-(4-methyl-1-piperazinyl)piperidine (0.65 g) and diethyl cyanophosphate (0.6 ml) at room temperature. To the mixture is added triethylamine (0.5 ml), and the mixture is stirred at room temperature for 10 minutes. To the mixture is added water, and the mixture is extracted with ethyl acetate. The extract is washed with water, dried, and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (solvent; dichloromethane:methanol=100:1→10:1). The compound thus obtained is converted into a hydrochloride thereof in ethanol by a conventional method, and recrystallized from ethanol-diethyl ether to give 2-{2-isopropyl-4-[3-[4-(4-methyl-1-piperazinyl)-1-piperidinylcarbonyl]acryloyl]phenoxymethylcarbonylamino}benzothiazole dihydrochloride (0.45 g).

reactant | 2-[2-isopropyl-4-(3-carboxyacryloyl)phenoxymethylcarbonylamino]benzothiazole | 0.97 g | C(C)(C)C1=C(OCC(=O)NC=2SC3=C(N2)C=CC=C3)C=CC(=C1)C(C=CC(=O)O)=O | C22H20N2O5S
reactant | 4-(4-methyl-1-piperazinyl)piperidine | 0.65 g | CN1CCN(CC1)C1CCNCC1 | C10H21N3
reactant | diethyl cyanophosphate | 0.6 ml | P(=O)(OCC)(OCC)C#N | C5H10NO3P
reactant | hydrochloride | Cl | ClH
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
product | 2-{2-isopropyl-4-[3-[4-(4-methyl-1-piperazinyl)-1-piperidinylcarbonyl]acryloyl]phenoxymethylcarbonylamino}benzothiazole dihydrochloride | 0.45 g | Cl.Cl.C(C)(C)C1=C(OCC(=O)NC=2SC3=C(N2)C=CC=C3)C=CC(=C1)C(C=CC(=O)N1CCC(CC1)N1CCN(CC1)C)=O | InChI=1S/C32H39N5O4S.2ClH/c1-22(2)25-20-23(8-10-28(25)41-21-30(39)34-32-33-26-6-4-5-7-29(26)42-32)27(38)9-11-31(40)37-14-12-24(13-15-37)36-18-16-35(3)17-19-36;;/h4-11,20,22,24H,12-19,21H2,1-3H3,(H,33,34,39);2*1H
